US06762180B1
(8) 4-[N-(2-dimethylamino-ethyl)-N-(furan-2-carbonyl)-amino]-nitrobenzene
Prepared from 4-(2-dimethylamino-ethylamino)-nitrobenzene and furan-2-carbonyl chloride

reactant | 4-(2-dimethylamino-ethylamino)-nitrobenzene | CN(CCNC1=CC=C(C=C1)[N+](=O)[O-])C | C10H15N3O2
reactant | furan-2-carbonyl chloride | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
product | 4-[N-(2-dimethylamino-ethyl)-N-(furan-2-carbonyl)-amino]-nitrobenzene | CN(CCN(C(=O)C=1OC=CC1)C1=CC=C(C=C1)[N+](=O)[O-])C | C15H17N3O4
